US06617336B1
8.6 g (35 mmol) of 2-phenyl-3-methyl-8-vinylquinoline are added, at 0° C., to a suspension of 52 g of AD-mix-α in a mixture of 200 ml of distilled water and 200 ml of tert-butanol. The reaction mixture is then vigorously stirred for 16 hours at this same temperature using a mechanical stirrer. 2 g of Na2SO3 are then added. The reaction mixture is stirred for one hour and is then taken up in 200 ml of water and extracted with 3×200 ml of ethyl acetate. The organic phases are combined, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue is purified by silica gel chromatography (eluent: ethyl acetate/cyclohexane 3/7) to provide 6.65 g of 2-phenyl-3-methyl-8-(1-(S),2-dihydroxyethyl)quinoline in the form of an orange-colored solid; M.p.=117° C. (Yield: 69%)

reactant | 2-phenyl-3-methyl-8-vinylquinoline | 35 mmol, 8.6 g | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)C=C | C18H15N
reactant | AD-mix-α | 52 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Na2SO3 | 2 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | water | 200 ml | O | H2O
reactant | water | 200 ml | O | H2O
solvent | tert-butanol | 200 ml | C(C)(C)(C)O | C4H10O
product | 2-phenyl-3-methyl-8-(1-(S),2-dihydroxyethyl)quinoline | 6.65 g, Yield: 69% | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)[C@@H](CO)O | C18H17NO2
